US07473700B2
4-fluorobenzoylisocyanate
1.5 g of 4-fluorobenzamide was dissolved in 20 ml of dichloromethane and 2.3 ml of oxalyl chloride was slowly added thereto at room temperature, and then the mixutre was heated and refluxed for 16 hours. When the reaction was completed, the reaction mixture was cooled to room temperature and the solvent was distilled under reduced pressure to produce the titled compound as a oil. Without purification processes, next process was proceeded.

reactant | 4-fluorobenzamide | 1.5 g | FC1=CC=C(C(=O)N)C=C1 | C7H6FNO
reactant | oxalyl chloride | 2.3 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-fluorobenzoylisocyanate | FC1=CC=C(C(=O)N=C=O)C=C1 | C8H4FNO2
